US07064143B1
(S)-N-[2-Azido-1-(4-methoxybenzyl)ethyl]-4-hydroxy-1-methyl-1H-indole-2-carboxamide
From (S)-1-azido-3-(4-methoxyphenyl)-2-propanamine [prepared by an adaptation of a method described by Horwell, et al., J. Med. Chem., 1991, 404–414 from (S)-2-amino-3-(4-methoxyphenyl)-1-propanol (prepared from O-methyl-L-tyrosine by an adaptation of a method described by Sutherland, et al., J Org Chem, 1998, 7764–7769] and 4 hydroxy-1-methyl-1H-indole-2-carboxylic acid the title compound was prepared by a method analogous to that described in Example 13. MS ES (M++H)=380.

reactant | (S)-1-azido-3-(4-methoxyphenyl)-2-propanamine | N(=[N+]=[N-])C[C@H](CC1=CC=C(C=C1)OC)N | C10H14N4O
reactant | (S)-2-amino-3-(4-methoxyphenyl)-1-propanol | N[C@H](CO)CC1=CC=C(C=C1)OC | C10H15NO2
reactant | O-methyl-L-tyrosine | COC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C10H13NO3
reactant | hydroxy-1-methyl-1H-indole-2-carboxylic acid | OC1=C(N(C2=CC=CC=C12)C)C(=O)O | C10H9NO3
product | (S)-N-[2-Azido-1-(4-methoxybenzyl)ethyl]-4-hydroxy-1-methyl-1H-indole-2-carboxamide | N(=[N+]=[N-])C[C@H](CC1=CC=C(C=C1)OC)NC(=O)C=1N(C2=CC=CC(=C2C1)O)C | C20H21N5O3
